US06005000
The crude ethyl 2-[(1,1'-biphenyl)-4-yl]-2-hydroxypropionate was saponified by treating with 100 mL of ethanol and 100 mL of 4.0 M NaOH solution. The suspension was stirred for 3 hours, after which a clear solution formed The solution was concentrated, diluted with 150 mL of H2O, washed with 2×50 mL of ether, and acidified to pH 1 with 10% HCl solution. The aqueous phase was extracted with 3×100 mL portions of ether and the combined ether extracts were washed with 50 mL of H2O, 50 mL of brine, dried (MgSO4) and concentrated leaving 18.3 g (72% yield) of racemic 2-[(1,1'-biphenyl)-4-yl]-2-hydroxypropionic acid as a white solid after was recrystallization from CHCl3 and hexanes.

reactant | ethyl 2-[(1,1'-biphenyl)-4-yl]-2-hydroxypropionate | C1(=CC=C(C=C1)C(C(=O)OCC)(C)O)C1=CC=CC=C1 | C17H18O3
reactant | NaOH | 4.0 M, 100 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | racemic 2-[(1,1'-biphenyl)-4-yl]-2-hydroxypropionic acid | 18.3 g, 72% yield | C1(=CC=C(C=C1)C(C(=O)O)(C)O)C1=CC=CC=C1 | C15H14O3
